.SUBCKT EXAMPLE Vb vin vip vo gnd! vdd! vss!
MM0 net0 net0 vdd! vdd! PMOS W=3.5u L=0.5u m=2
MM1 vo net0 vdd! vdd! PMOS W=3.5u L=0.5u m=2
MM2 net0 vip net1 vss! NMOS W=4u L=0.5u m=1
MM3 vo vin net1 vss! NMOS W=4u L=0.5u m=1
MM4 net1 vb vss! vss! NMOS W=4.8u L=0.5u m=4
CL vo gnd! 1p 
.ENDS